US05922558
A solution of thioxanthone (10 g) in 60 mL of benzene was treated with 5.0 g of LAH by stirring for 15 min. The mixture was heated and 100 mL of ether was added carefully. Reflux was continued for 90 min. The cooled mixture was neutralized with water. The solids were filtered off and the filtrate evaporated to dryness. Pure thioxanthene (9.1 g, 98%) was isolated by chromatography using 20% ethyl acetate/hexane; 1H NMR (CDCl3) δ 3.82 (s, 3H), 7.21 (m, 4H), 7.33 (m, 2H), 7.46 (m, 2H).

reactant | thioxanthone | 10 g | C1=CC=CC=2SC3=CC=CC=C3C(C12)=O | C13H8OS
reactant | LAH | 5.0 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ether | 100 mL | CCOCC | C4H10O
reactant | water | O | H2O
solvent | benzene | 60 mL | C1=CC=CC=C1 | C6H6
product | thioxanthene | 9.1 g, 98% | C1=CC=CC=2SC3=CC=CC=C3CC12 | C13H10S
